US08633173B2
7-{8-[2-(2,2-difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-[2-(2,2-difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridine (0.182 g, 506 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.199 g, 759 mmol) in a manner analogous to Example 311a and 311b to give product: 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.54 (s, 1H), 8.78 (d, 1H), 7.90 (s, 1H), 7.65 (m, 2H), 7.42 (m, 3H), 7.10 (br m, 1H) 7.05 (m, 2H), 6.35 (br m, 1H), 4.43 (m, 2H), 3.40 (m, 4H), 2.75 (m, 4H), 1.41 (s, 9H). MS=586 (MH)+.

reactant | 2-chloro-8-[2-(2,2-difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridine | 506 mmol, 0.182 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)F)OCC(F)F)=N1 | C15H10ClF4N3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 759 mmol, 0.199 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-{8-[2-(2,2-difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)C(F)F)OCC(F)F)=N2 | C30H31F4N5O3
